US07868188B2
N-[4-Methyl-5-(6-phenylsulfonylaminopyridazin-3-yl)-1,3-thiazol-2-yl]acetamide
A mixture of 2-acetamido-4-methylthiazole (78 mg), N-(6-chloropyridazin-3-yl)benzenesulfonamide (80 mg), potassium carbonate (374 mg), palladium (I) tri-tert-butylphosphine bromide dimer (commercially available from Alfa Aesar (Johnson-Matthey company); 241 mg) and DMSO (5 mL) was purged with nitrogen. The resultant mixture was heated to 150° C. for 30 minutes. The mixture was cooled to room temperature, filtered and purified directly by preparative HPLC. There was thus obtained the title compound as a solid (23 mg); 1H NMR Spectrum: (DMSOd6) 2.15 (s, 3H), 2.46 (s, 3H), 7.53-7.60 (m, 3H), 7.78 (m, 1H), 7.86-7.88 (m, 2H), 7.95-7.97 (br d, 1H); Mass Spectrum: M+H+ 390.

reactant | 2-acetamido-4-methylthiazole | 78 mg | C(C)(=O)NC=1SC=C(N1)C | C6H8N2OS
reactant | N-(6-chloropyridazin-3-yl)benzenesulfonamide | 80 mg | ClC1=CC=C(N=N1)NS(=O)(=O)C1=CC=CC=C1 | C10H8ClN3O2S
reactant | potassium carbonate | 374 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium (I) tri-tert-butylphosphine bromide | [Br-].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.[Pd+]
product | N-[4-Methyl-5-(6-phenylsulfonylaminopyridazin-3-yl)-1,3-thiazol-2-yl]acetamide | 23 mg | CC=1N=C(SC1C=1N=NC(=CC1)NS(=O)(=O)C1=CC=CC=C1)NC(C)=O | C16H15N5O3S2
